* C:\Users\Guilherme Xavier\Documents\GitHub\Retificadores\Draft1.asc
V1 N001 0 SINE(0 180 60)
V2 N003 0 SINE(0 180 60 0 0 -120)
V3 N004 0 SINE(0 180 60 0 0 120)
D1 N001 N002 D
D2 N003 N002 D
D3 N004 N002 D
L1 N002 N005 1H
R1 N005 0 100
C1 N002 0 1000µ
.model D D
.lib C:\Users\Guilherme Xavier\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
.backanno
.end
